US07776877B2
A 4 mL scintillation vial was charged with 4-tert-butyl-N-(4-chloro-2-iodo-phenyl)-benzenesulfonamide (84 mg, 0.19 mmol), 4-azabenzotriazole (29 mg, 0.22 mmol), CuI (3 mg, 0.014 mmol), Cs2CO3 (127 mg, 0.39 mmol), trans-N,N′-dimethylcyclohexane-1,2-diamine (5 mg, 0.04 mmol), and dioxane (500 μL). The reaction was heated to 90° C. and stirred overnight. The following day, the volatiles were removed in vacuo. The residue was subsequently diluted in EtOAc and washed with saturated NH4Cl (aq). The organic layer was then concentrated in vacuo and the residue purified by preparative TLC (thin-layer chromatography) to afford 4-tert-butyl-N-(4-chloro-2-[1,2,3]triazolo[4,5-b]pyridine-1-yl-phenyl)-benzenesulfonamide: MS (ES) M+H expected 442.1, found 442.0.

reactant | 4-tert-butyl-N-(4-chloro-2-iodo-phenyl)-benzenesulfonamide | 0.19 mmol, 84 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)I | C16H17ClINO2S
reactant | 4-azabenzotriazole | 0.22 mmol, 29 mg | N1N=NC2=C1C=CC=N2 | C5H4N4
reactant | Cs2CO3 | 0.39 mmol, 127 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.04 mmol, 5 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
catalyst | CuI | 0.014 mmol, 3 mg | [Cu]I
solvent | dioxane | 500 μL | O1CCOCC1 | C4H8O2
product | 4-tert-butyl-N-(4-chloro-2-[1,2,3]triazolo[4,5-b]pyridine-1-yl-phenyl)-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)N1N=NC2=NC=CC=C21 | C21H20ClN5O2S
